### PR TITLE
feat(ErdosProblems): 291

### LINKED ISSUE #475: Erdős Problem 291
### What is the conjecture
    
https://www.erdosproblems.com/291

  Let $n\geq 1$ and define $L_n$ to be the least common multiple of $\\{1,\ldots,n\\}$ and $a_n$ by
$$\sum_{1\leq k\leq n}\frac{1}{k}=\frac{a_n}{L_n}.$$
Is it true that $(a_n,L_n)=1$ and $(a_n,L_n)>1$ both occur for infinitely many $n$?

Status: open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by danielchin**
Closes #475 

Formalizes https://www.erdosproblems.com/291

Assisted by Gemini/Antigravity.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/291.lean [hunk 1]
```diff
@@ -0,0 +1,123 @@
...
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Erdős Problem 291
+
+*References:*
+- [erdosproblems.com/291](https://www.erdosproblems.com/291)
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/291.lean:23]:
```suggestion
- [erdosproblems.com/291](https://www.erdosproblems.com/291)
- [ErGr80, p.34] Erdős, P. and Graham, R., Old and new problems and results in combinatorial number theory. Monographies de L'Enseignement Mathematique (1980).
```

File: FormalConjectures/ErdosProblems/291.lean [hunk 2]
```diff
@@ -0,0 +1,123 @@
...
+
+/--
+Is it true that $(a_n,L_n)>1$ occurs for infinitely many $n$?
+
+Steinerberger has observed that the answer to the second question is trivially yes: for example, any
+$n$ which begins with a $2$ in base $3$ has $3\mid (a_n,L_n)$.
+-/
+@[category research solved, AMS 11]
+theorem erdos_291.parts.ii :
+    { n : ℕ | Nat.gcd (a n) (L n) > 1 }.Infinite := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/291.lean]:
```suggestion
    answer(True) ↔ 
      { n : ℕ | Nat.gcd (a n) (L n) > 1 }.Infinite := by
```

File: FormalConjectures/ErdosProblems/291.lean [hunk 3]
```diff
@@ -0,0 +1,123 @@
...
+@[category research open, AMS 11]
+theorem erdos_291.parts.i :
+    answer(sorry) ↔
+      { n : ℕ | Nat.gcd (a n) (L n) = 1 }.Infinite := by
+  sorry
+
+/--
+Is it true that $(a_n,L_n)>1$ occurs for infinitely many $n$?
+
+Steinerberger has observed that the answer to the second question is trivially yes: for example, any
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/291.lean:68]: is there a source for this observation by Steinerberger?

**Review by mo271 — APPROVED** [review]
Thanks, looks great mathematically!

Added a few nits around references

File: FormalConjectures/ErdosProblems/291.lean (hunk 1 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/291.lean:23]: Done.

File: FormalConjectures/ErdosProblems/291.lean (hunk 2 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/291.lean]: Done.

File: FormalConjectures/ErdosProblems/291.lean (hunk 3 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/291.lean:68]: Unfortunately, it doesn't look like there is one. On the website, it looks like Bloom gives additional thanks to Steinerberger which usually means they left a comment but I no longer see a comment possibly due to the comments being moved between problems.

**Comment by danielchin** [comment]
-awaiting-author
